US07087756B2
4-(5-Methyl-4-oxo-3-phenyl-4,5-dihydro-isoxazolo[4,3-c]pyridin-6-yl)-benzoic acid methyl ester:
This compound is obtained using 3-methyl-5-phenyl-isoxazole-4-carboxylic acid methylamide and 4-formyl-benzoic acid methyl ester in 15% as a beige solid. Mass spectrum: m/z (M+H)+: 361.2

reactant | 3-methyl-5-phenyl-isoxazole-4-carboxylic acid methylamide | CNC(=O)C=1C(=NOC1C1=CC=CC=C1)C | C12H12N2O2
reactant | 4-formyl-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C=O)=O | C9H8O3
product | 4-(5-Methyl-4-oxo-3-phenyl-4,5-dihydro-isoxazolo[4,3-c]pyridin-6-yl)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C1=CC=2C(C(N1C)=O)=C(ON2)C2=CC=CC=C2)=O | C21H16N2O4
